US07030124B2
4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide (0.87 g, 2.0 mmol) was dissolved in methylene chloride (10 mL) and triethylamine (0.919 mL, 0.667 g, 6.6 mmol) was added. N-Phenyl bis(trifluoromethanesulfonimide) (0.785 g, 2.2 mmol) was added and the reaction mixture was sealed under nitrogen and stirred at room temperature overnight. The reaction mixture was evaporated to dryness, the residue dissolved in ethyl acetate (20 mL), and the solution extracted with 5% sodium carbonate solution (2×15 mL). The organic layer was separated, dried over anhydrous sodium sulfate and evaporated to yield a viscous amber oil. The residue was dissolved in methylene chloride (5 mL), applied to a column of silica gel (4×30 cm), and eluted with ethanol/methylene chloride (2:98 v/v). Pure fractions containing desired product, as evidenced by t.l.c. (silica gel, EM60F254, 2% NH4OH in ethyl acetate, Rf=0.78) were evaporated to dryness to yield 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide (0.72 g) as a yellow/amber oil. 1H NMR (CDCl3, 500 MHz); δ 1.00 (d, J=6.2 Hz, 3H); 1.12 (br m, 3H); 1.21 (d, J=6.1 Hz, 3H); 1.25 (br m, 3H); 1.83 (t, J=10.6 Hz, 1H); 2.60 (m, 3H); 2.91 (dd J=11.4, 2.7, 1H); 3.02 (m, 1H); 3.18 (br s, 2H); 3.28 (br m, 2H); 3.46 (dd, J=13.7, 5.5 Hz, 1H); 3.55 (br m, 2H); 5.25 (m, 2H); 5.31 (s, 1H); 5.88 (m, 1H); 7.02 (d, J=7.7 Hz, 1H); 7.05 (s, 1H); 7.23 (m, 2H); 7.32 (d, J=8.1 Hz, 2H); 7.40 (d, J=8.1 Hz, 2H); 7.46 (t, J=7.9 Hz, 1H).

reactant | 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide | 2.0 mmol, 0.87 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C27H37N3O2
reactant | triethylamine | 6.6 mmol, 0.919 mL, 0.667 g | C(C)N(CC)CC | C6H15N
reactant | N-Phenyl bis(trifluoromethanesulfonimide) | 2.2 mmol, 0.785 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide | 0.72 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C28H36F3N3O4S
